US06919337B2
A solution of sodium triethylborohydride (1M THF, 12.7 ml, 12.7 mmol) is added dropwise to a solution of isoquinoline (1.64 g, 12.7 mmol) in THF (25 ml). The reaction is stirred at room temperature for 1 hour, prior to dropwise addition of a solution of ethyl glyoxalate (1.43 g, 13.9 mmol) in toluene (previously heated at 110° C. for 1.5 hours). After a further 4 hours at room temperature, the reaction is cooled to 0° C. and sodium hydroxide (0.5M aqueous solution, 25.4 ml) followed by hydrogen peroxide (30% aqueous solution, 12.7 ml) is added, followed by stirring for 2 hours. The reaction is acidified with 1N HCl, washed with ethyl acetate three times, the aqueous phase is reduced in volume by evaporation and refrigerated overnight. The resultant precipitate is collected by filtration and dried to afford isoquinolin4-yl-acetic acid hydrochloride salt, MH+ 188.

reactant | sodium triethylborohydride | 12.7 mmol, 1M, 12.7 ml | C(C)[BH-](CC)CC.[Na+]
reactant | isoquinoline | 12.7 mmol, 1.64 g | C1=NC=CC2=CC=CC=C12 | C9H7N
reactant | ethyl glyoxalate | 13.9 mmol, 1.43 g | C(C=O)(=O)OCC | C4H6O3
reactant | sodium hydroxide | 0.5M, 25.4 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 12.7 ml | OO | H2O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | isoquinolin4-yl-acetic acid hydrochloride salt | Cl.C1=NC=C(C2=CC=CC=C12)CC(=O)O | InChI=1S/C11H9NO2.ClH/c13-11(14)5-9-7-12-6-8-3-1-2-4-10(8)9;/h1-4,6-7H,5H2,(H,13,14);1H
